US07390903B2
To a stirred solution of 0.30 g (1.83 mmol) of 2-amino-5,6-dihydro-4H-cyclopenta[b]thiophene-3-carbonitrile in 6 ml toluene was added 0.30 g (2.14 mmol) 1-cyclopropyl-3-methoxy-but-2-en-1-one and 3 mg of p-toluenesulfonic acid. The mixture was heated at reflux for 2 hours, concentrated in vacuo, partitioned between ethyl acetate and water. The combined organic phases were dried over sodium sulfate and evaporated to dryness. The residue was taken up in n-butyl acetate 6 ml and 1.018 g (3.91 mmol) tin (IV) chloride was heated under reflux for 30 minute and allowed to cool. The mixture was partitioned between aqueous sodium hydroxide and ethyl acetate. Flash chromatography (heptane/ethyl acetate 3:1) afforded 25 mg (5%) (4-amino-6-methyl-2,3-dihydro-1H-8-thia-7-aza-cyclopenta[a]inden-5-yl)-cyclopropyl-methanone as a white solid. ES-MS m/e (%): 273 (M+H+, 100).

reactant | 2-amino-5,6-dihydro-4H-cyclopenta[b]thiophene-3-carbonitrile | 1.83 mmol, 0.30 g | NC1=C(C2=C(S1)CCC2)C#N | C8H8N2S
reactant | 1-cyclopropyl-3-methoxy-but-2-en-1-one | 2.14 mmol, 0.30 g | C1(CC1)C(C=C(C)OC)=O | C8H12O2
reactant | p-toluenesulfonic acid | 3 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tin (IV) chloride | 3.91 mmol, 1.018 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | (4-amino-6-methyl-2,3-dihydro-1H-8-thia-7-aza-cyclopenta[a]inden-5-yl)-cyclopropyl-methanone | 25 mg, 5% | NC1=C(C(=NC=2SC3=C(C12)CCC3)C)C(=O)C3CC3 | C15H16N2OS
